US08242175B2
1-[4-(1-methyl-piperidin-4-ylidenemethyl)-phenyl]-ethanone (401 mg, 1.75 mmol) was dissolved in EtOH (20 ml) and 5% Pd/C (40 mg) was added to the resulting solution. The mixture was hydrogenated in a Parr apparatus at 40 psi for 2 h. The catalyst was then filtered and the solvent was removed in vacuo. The residue was taken up with DCM and treated with HCl/Et2O until reaching a pH value of 1. The solvent was removed in vacuo to give an oil which was allowed to crystallize. The solid was triturated in Et2O and filtered to obtain 426 mg of 1-[4-(1-methyl-piperidin-4-ylmethyl)-phenyl]-ethanone as its hydrochloride salt.

reactant | 1-[4-(1-methyl-piperidin-4-ylidenemethyl)-phenyl]-ethanone | 1.75 mmol, 401 mg | CN1CCC(CC1)=CC1=CC=C(C=C1)C(C)=O | C15H19NO
solvent | EtOH | 20 ml | CCO | C2H6O
catalyst | Pd/C | 40 mg | [Pd] | Pd
product | 1-[4-(1-methyl-piperidin-4-ylmethyl)-phenyl]-ethanone | 426 mg | CN1CCC(CC1)CC1=CC=C(C=C1)C(C)=O | C15H21NO
